* Waveform generation by PWM in Verilog

adut null [ out ] pwm_sin
.model pwm_sin d_cosim simulation="ivlng" sim_args = [ "pwm" ]

r1 out smooth 100k
c1 smooth 0 1u
.control
tran 1m 2
plot out-3.3 smooth
.endc
.end
